US08669266B2
(iii) 4-Hydroxy-7-methyl-naphthalene-2-carboxylic acid
To a solution of 860 mg of 4-Acetoxy-7-methyl-naphthalene-2-carboxylic acid ethyl ester in 3 ml ethanol/water (9:1), 12.6 ml of a 1M NaOH was added and stirred for 5 h at RT. Then, the reaction mixture was acidified to pH 2 with diluted hydrochloric acid to precipitate the product. The product was then collected by filtration and dried under reduced pressure. Yield: 550 mg.

reactant | 4-Acetoxy-7-methyl-naphthalene-2-carboxylic acid ethyl ester | 860 mg | C(C)OC(=O)C1=CC2=CC(=CC=C2C(=C1)OC(C)=O)C | C16H16O4
reactant | NaOH | 1M | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol water | 3 ml | C(C)O.O
product | 4-Hydroxy-7-methyl-naphthalene-2-carboxylic acid | OC1=CC(=CC2=CC(=CC=C12)C)C(=O)O | C12H10O3
